US06235789B1
Ethyl 3-(3-Bromo-4-methoxy-5-methylphenyl)propionate
To a solution of ethyl 3-(4-methoxy-3-methylphenyl)propionate (derived from 10.0 g (66.6 mmol) of 4-methoxy-3-methylbenzaldehyde) in chloroform (200 ml) was added dropwise bromine (10.6 g, 66.6 mmol). The mixture was stirred for 12 hours at room temperature. The reaction mixture was washed with water, an aqueous solution of sodium thiosulfate, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane→hexane/ethyl acetate, 9:1) to give 17.0 g (yield 85%; 3 steps) of the above-titled compound as an oily product.

reactant | ethyl 3-(4-methoxy-3-methylphenyl)propionate | 66.6 mmol, 10.0 g | COC1=C(C=C(C=C1)CCC(=O)OCC)C | C13H18O3
reactant | 4-methoxy-3-methylbenzaldehyde | 66.6 mmol | COC1=C(C=C(C=O)C=C1)C | C9H10O2
reactant | bromine | 66.6 mmol, 10.6 g | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-(3-Bromo-4-methoxy-5-methylphenyl)propionate | yield 85% | BrC=1C=C(C=C(C1OC)C)CCC(=O)OCC | C13H17BrO3
